US05223536
Step I 3-Cyclopropyl-3-(4-trifluoromethylphenyl)-propionaldehyde
This compound was prepared in a manner analogous to that of Example 1, Step D, using 2.5 grams (0.01 mole) of 3-cyclopropyl-3-(4-trifluoromethylphenyl)propan-1-ol and 8.6 grams (0.04 mole) of pyridinium chlorochromate in 50 ml of methylene chloride. The yield of 3-cyclopropyl-3-pressure (4-trifluoromethylphenyl)propionaldehyde was 1.4 grams.

reactant | 3-cyclopropyl-3-(4-trifluoromethylphenyl)propan-1-ol | 0.01 mole, 2.5 grams | C1(CC1)C(CCO)C1=CC=C(C=C1)C(F)(F)F | C13H15F3O
reactant | pyridinium chlorochromate | 0.04 mole, 8.6 grams | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | (4-trifluoromethylphenyl)propionaldehyde | FC(C1=CC=C(C=C1)C(C=O)C)(F)F | C10H9F3O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Cyclopropyl-3-(4-trifluoromethylphenyl)-propionaldehyde | C1(CC1)C(CC=O)C1=CC=C(C=C1)C(F)(F)F | C13H13F3O
